US07183293B2
(R)-2-(4-Cyano-3-fluoro-phenoxy)-propionic acid tert-butyl ester of Formula (5.0.17)
A solution of (R)-2-(4-cyano-3-fluoro-phenoxy)-propionic acid (55 mg, 026 mmol) in dry toluene (30 mL) and N,N-dimethylformamide di-tert-butyl acetal (0.25 mL, 1.05 mmol) was stirred at 90° C. 1 hour. The reaction mix was adsorbed onto silica gel and purified by flash column chromatography (30% ethyl acetate/hexane) to afford 51 mg of a white solid (74% yield).

reactant | (R)-2-(4-cyano-3-fluoro-phenoxy)-propionic acid | 55 mg | C(#N)C1=C(C=C(O[C@@H](C(=O)O)C)C=C1)F | C10H8FNO3
reactant | N,N-dimethylformamide di-tert-butyl acetal | 1.05 mmol, 0.25 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(4-Cyano-3-fluoro-phenoxy)-propionic acid tert-butyl ester | 51 mg, 74% yield | C(C)(C)(C)OC([C@@H](C)OC1=CC(=C(C=C1)C#N)F)=O | C14H16FNO3
